US07495007B2
Preparation of racemic (2′R,3R,4′S)-6-chloro-4′-(5-chloro-2-hydroxycarbonylmethoxy-phenyl)-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
Racemic (2′R,3R,4′S)-6-chloro-4′-(5-chloro-2-methoxycarbonylmethoxy-phenyl)-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (80 mg, 0.164 mmol) was dissolved in THF (10 mL). Then aqueous solution (1 mL) of NaOH (20 mg) was added. The mixture was refluxed for 1 h. After cooled to room temperature, the solution was concentrated and acidified to “pH” 2-3. The mixture was extracted with ethyl acetate. The organic layer was separated, dried and concentrated. The crude product (50 mg) was purified by Prep-HPLC to give the title compound as a white solid (14 mg).

reactant | Racemic (2′R,3R,4′S)-6-chloro-4′-(5-chloro-2-methoxycarbonylmethoxy-phenyl)-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.164 mmol, 80 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OCC(=O)OC)=O)C(=C)C)=O | C24H22Cl2N2O5
reactant | NaOH | 1 mL, 20 mg | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | racemic (2′R,3R,4′S)-6-chloro-4′-(5-chloro-2-hydroxycarbonylmethoxy-phenyl)-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 14 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OCC(=O)O)=O)C(=C)C)=O | C23H20Cl2N2O5
